US04363807
A suspension of palladium carbon (20 g.) in acetic acid (50 ml.) was added to a solution of 7-(2-phenylacetamido)-3-hydroxymethyl-2-cephem-4-carboxylic acid (19.0 g.) in acetic acid (150 ml.) and water (50 ml.). The solution was subjected to catalytic reduction in the presence of hydrogen gas of 20 kg./cm2 at 70° C. for 5 hours. After filtration, the filtrate was concentrated in vacuo. The residue was dissolved in aqueous solution of sodium bicarbonate, washed with ethyl acetate, adjusted to pH 3.0 and then extracted with ethyl acetate. The extract was washed with aqueous solution of sodium chloride, dried over magnesium sulfate and evaporated in vacuo to give 7-(2-phenylacetamido)-3-hydroxymethylcepham-4-carboxylic acid (14 g.).

reactant | 7-(2-phenylacetamido)-3-hydroxymethyl-2-cephem-4-carboxylic acid | 19.0 g | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(C(=CS2)CO)C(=O)O)C1=O | C16H16N2O5S
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 150 ml | C(C)(=O)O | C2H4O2
solvent | water | 50 ml | O | H2O
catalyst | palladium carbon | 20 g | [C].[Pd]
product | 7-(2-phenylacetamido)-3-hydroxymethylcepham-4-carboxylic acid | 14 g | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(C(CS2)CO)C(=O)O)C1=O | C16H18N2O5S
